US07638515B2
1,1,1-Trifluoro-4-phenyl-2-[(2-methylquinolin-5-yl)iminomethyl]-4-methylpentan-2-ol
120 mg of 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal, 67 mg of 5-amino-2-methylquinoline and 163 μl of titanium tetraethylate are stirred in 8 ml of toluene for 2 hours at 100° C. After cooling, the batch is mixed with 2 ml of water, stirred for 15 minutes at room temperature, and concentrated by evaporation in a vacuum. Column chromatography on silica gel with cyclohexane-ethyl acetate yields 111 mg of product.

reactant | 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal | 120 mg | OC(C=O)(CC(C)(C1=CC=CC=C1)C)C(F)(F)F | C13H15F3O2
reactant | 5-amino-2-methylquinoline | 67 mg | NC1=C2C=CC(=NC2=CC=C1)C | C10H10N2
reactant | water | 2 ml | O | H2O
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium | 163 μl | [Ti] | Ti
product | 1,1,1-Trifluoro-4-phenyl-2-[(2-methylquinolin-5-yl)iminomethyl]-4-methylpentan-2-ol | 111 mg | FC(C(CC(C)(C)C1=CC=CC=C1)(O)C=NC1=C2C=CC(=NC2=CC=C1)C)(F)F | C23H23F3N2O
